US07692005B2
N-(4-{3-[(4-Morpholin-4-yl-phenylamino)-methylene]-2-oxo-2,3-dihydro-1H-indole-5-carbonyl}-phenyl)-acetamide
A small screw cap test tube was charged with N-[4-(3-Hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-5-carbonyl)-phenyl]-acetamide (prepared below, 50 mg, 0.155 mmol) and THF (2 mL). To the resulting solution was added N-(4-aminophenyl)morpholine (30.4 mg, 0.170 mmol), and the mixture was stirred for 24 h at 65° C. Subsequently, the reaction mixture was cooled to room temperature. Hexanes were added to the reaction mixture. The solid precipitate that formed was washed with ˜1 mL of i-prOH yielding 41% (31 mg, 0.075 mmol) of the title compound.

reactant | N-[4-(3-Hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-5-carbonyl)-phenyl]-acetamide | 0.155 mmol, 50 mg | OC=C1C(NC2=CC=C(C=C12)C(=O)C1=CC=C(C=C1)NC(C)=O)=O | C18H14N2O4
reactant | N-(4-aminophenyl)morpholine | 0.170 mmol, 30.4 mg | NC1=CC=C(C=C1)N1CCOCC1 | C10H14N2O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | N-(4-{3-[(4-Morpholin-4-yl-phenylamino)-methylene]-2-oxo-2,3-dihydro-1H-indole-5-carbonyl}-phenyl)-acetamide | 0.075 mmol, 31 mg, 41% | N1(CCOCC1)C1=CC=C(C=C1)NC=C1C(NC2=CC=C(C=C12)C(=O)C1=CC=C(C=C1)NC(C)=O)=O | C28H26N4O4
